US07713994B2
(4Z)-4-[({4-[4-(3-Furylmethyl)piperazin-1-yl]phenyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione
(4Z)-6-Iodo-4-{[(4-piperazin-1-ylphenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione (47.4 mg, 0.1 mmol) is dissolved in N-methylpyrrolidinone (1 mL) and methylene chloride (0.3 mL), followed by addition of sodium triacetoxyborohydride (244 mg, 1.15 mmol), furan-3-carbaldehyde (0.214 mL, 2.58 mmol) and acetic acid (0.15 mL, 2.6 mmol). After stirring at room temperature for 40 min, methylene chloride and saturated sodium bicarbonate solution were added. The organic layer is separated and dried to give 45 mg (81%) of the title compound as an orange solid. MS (ESI) m/z 555.4 (M+H)+1.

reactant | (4Z)-6-Iodo-4-{[(4-piperazin-1-ylphenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.1 mmol, 47.4 mg | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1CCNCC1 | C20H19IN4O2
reactant | sodium triacetoxyborohydride | 1.15 mmol, 244 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | furan-3-carbaldehyde | 2.58 mmol, 0.214 mL | O1C=C(C=C1)C=O | C5H4O2
reactant | acetic acid | 2.6 mmol, 0.15 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | methylene chloride | 0.3 mL | C(Cl)Cl | CH2Cl2
product | (4Z)-4-[({4-[4-(3-Furylmethyl)piperazin-1-yl]phenyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione | 45 mg, 81% | O1C=C(C=C1)CN1CCN(CC1)C1=CC=C(C=C1)N\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O | C25H23IN4O3
